US06545009B1
In the same manner as in Example 28, methyl 4-thiocarbamoylbenzoate was reacted with 4-trifluoromethoxyphenacyl bromide to obtain methyl 4-[4-(4-trifluoromethoxyphenyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 60%. Pale yellow prisms. Melting point: 138 to 139° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 4-trifluoromethoxyphenacyl bromide | FC(OC1=CC=C(C(CBr)=O)C=C1)(F)F | C9H6BrF3O2
product | methyl 4-[4-(4-trifluoromethoxyphenyl)-2-thiazolyl]benzoate | Yield: 60% | FC(OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1)(F)F | C18H12F3NO3S
